US05932601
Isopropyl (R)-(+)-2-acetoxy-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]pentanoate (4.87 g) was dissolved in methanolic HCl (5%, 100 ml), which was stirred for 12 hours at room temperature. The solution was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The residue was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:1), was obtained methyl (R)-(-)-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]-2-hydroxypentanoate (3.2 g, 77%), which was recrystallized from ethyl acetate-isopropyl ether to give colorless prisms, m.p.83-84° C.

reactant | Isopropyl (R)-(+)-2-acetoxy-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]pentanoate | 4.87 g | C(C)(=O)O[C@@H](C(=O)OC(C)C)CCCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C26H31NO8
reactant | water | O | H2O
solvent | HCl | 100 ml | Cl | ClH
product | methyl (R)-(-)-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]-2-hydroxypentanoate | 3.2 g, 77% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCC[C@H](C(=O)OC)O)OC)C | C22H25NO7
